US07811370B2
In a 250 mL round-bottomed flask fitted with a reflux condensor was added 11,12-bis(8-isocyanatooctyl)docosane (diamer diisocyanate, Cognis Corp.) (5.18 g, 8.39 mmol) and 2-amino-6-pentadecylpyrimidin-4(1H)-one (5.67 g, 17.63 mmol) in Pyridine (50 mL) to give a white suspension. The mixture was heated to 75 deg/C under argon and stirred for 24 h. The pyridine was removed and the residue was taken up in chloroform. The hazy solution was filtered and the resulting clear solution was concentrated to 50 ml and the viscous solution was poured into a rapidly stirring solution (1 L) of MeOH upon which a white solid formed. The solid was collected by filtration and dried under vacuum for 24 h to give 10.5 g 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(4-oxo-6-pentadecyl-1,4-dihydropyrimidin-2-yl)urea)

reactant | 11,12-bis(8-isocyanatooctyl)docosane | 8.39 mmol, 5.18 g | N(=C=O)CCCCCCCCC(CCCCCCCCCC)C(CCCCCCCCCC)CCCCCCCCN=C=O | C40H76N2O2
reactant | 2-amino-6-pentadecylpyrimidin-4(1H)-one | 17.63 mmol, 5.67 g | NC=1NC(=CC(N1)=O)CCCCCCCCCCCCCCC | C19H35N3O
solvent | Pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(4-oxo-6-pentadecyl-1,4-dihydropyrimidin-2-yl)urea) | 10.5 g | C(CCCCCCCCC)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)CCCCCCCCCCCCCCC)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)CCCCCCCCCCCCCCC)CCCCCCCCCC | C78H146N8O4
